US07825256B2
2-Cyano-pyrrolidine-1-carboxylic acid benzyl ester (17.0 g, 73.9 mmol) was dissolved in diethyl ether (100 mL). Ethanol (20.4 g, 444 mmol) was added and gaseous HCl was bubbled through the reaction mixture, while maintaining the temperature at −20° C. The temperature was maintained for 12 hours while stirring. The reaction mixture was concentrated under vacuo to afford 22.0 g (95%) of 2-ethoxycarbonimidoyl-pyrrolidine-1-carboxylic acid benzyl ester as a red oil.

reactant | 2-Cyano-pyrrolidine-1-carboxylic acid benzyl ester | 73.9 mmol, 17.0 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C#N | C13H14N2O2
reactant | Ethanol | 444 mmol, 20.4 g | C(C)O | C2H6O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-ethoxycarbonimidoyl-pyrrolidine-1-carboxylic acid benzyl ester | 22.0 g, 95% | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=N)OCC | C15H20N2O3
